US04855482
To a solution of p-hydroxybenzoic acid benzyl ester (68.4 g, 0.3 mol) in N,N-dimethylformamide (274 g) sodium carbonate (15.9 g, 0.15 mol) was added, and stirred at 100° C. Then, p-xylylenedichloride (26.2 g, 0.15 mol) was added to the reaction mixture in 10 minutes, and stirred at 100° C. for one hour. Water was added to the resultant to separate a clued precipitate. The precipitate was filtered, added to N,N-dimethylformamide to be dissolved at 90° C., cooled, filtered, and dried to give a white crystal of 1,4-bis(p-carbobenzyloxyphenoxymethyl)benzene (27.8 g, yield 33.0): m.p. 154°-157° C.

reactant | p-hydroxybenzoic acid benzyl ester | 0.3 mol, 68.4 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C14H12O3
reactant | N,N-dimethylformamide | 0.15 mol, 274 g | CN(C=O)C | C3H7NO
reactant | p-xylylenedichloride | 0.15 mol, 26.2 g | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
solvent | Water | O | H2O
product | 1,4-bis(p-carbobenzyloxyphenoxymethyl)benzene | 27.8 g | C(=O)(OCC1=CC=CC=C1)C1=CC=C(OCC2=CC=C(C=C2)COC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)C=C1 | C36H30O6
